US06713496B2
2-[(4-Methoxybenzyl)amino]ethanol
Acetic acid (ca. 150 ml) was added to a solution of p-anisaldehyde (58.2 g, 0.42 mol) and ethanolamine (152 ml, 2.52 mol) in methanol (1L), to achieve a pH of 6. Sodium triacetoxyborohydride (100 g, 0.47 mol) was added portionwise, and once addition was complete, the mixture was stirred at room temperature for 72 hours. The mixture was concentrated under reduced pressure, basified using 1N sodium hydroxide solution and extracted with dichloromethane (10×300 ml). The combined extracts were evaporated and the crude product was purified by column chromatography on silica gel using an elution gradient of dichloromethane:methanol (98:2 to 90:10) to afford the title compound, 42 g. 1H-NMR (CDCl3, 400 MHz) δ: 2.78 (t, 2H), 3.62 (t, 2H), 3.75 (m, 5H), 4.24 (s, 2H), 6.81 (d, 2H), 7.22 (d, 2H). LRMS: m/z (ES+) 182 [MH+].

reactant | Acetic acid | ca. 150 ml | C(C)(=O)O | C2H4O2
reactant | p-anisaldehyde | 0.42 mol, 58.2 g | C(C1=CC=C(C=C1)OC)=O | C8H8O2
reactant | ethanolamine | 2.52 mol, 152 ml | C(O)CN | C2H7NO
reactant | Sodium triacetoxyborohydride | 0.47 mol, 100 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | CO | CH4O
product | 2-[(4-Methoxybenzyl)amino]ethanol | COC1=CC=C(CNCCO)C=C1 | C10H15NO2
